US06855716B2
Synthesis of 6-(2chloroethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide
139 mg (0.417 mmol) of 6-(2-chloroethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 106 mg (0.500 mmol) of 3,3-diphenylpropylamine were dissolved in 10 ml of dichloromethane. 120 mg (0.626 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=50/1) to obtain the title compound.

reactant | 6-(2-chloroethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.417 mmol, 139 mg | ClCCOCC1=C(C(NC(N1)=O)C1=CC(=CC=C1)Cl)C(=O)O | C14H14Cl2N2O4
reactant | 3,3-diphenylpropylamine | 0.500 mmol, 106 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | WSC hydrochloride | 0.626 mmol, 120 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-(2chloroethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | C1(=CC=CC=C1)C(CCNC(=O)C=1C(NC(NC1COCCCl)=O)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C29H29Cl2N3O3
